US04544660
5-chloro-2-methoxy-4-methyl benzoic acid (2 g., 0.0093 mol) in dimethylformamide (50 ml) was treated with pentachlorophenyl trichloroacetate (4.5 g., 0.11 mol) and triethylamine (1.5 ml). The mixture was stirred at room temperature for one hour. The dimethylformamide was stripped off in vacuo, and the residue recrystallised from acetone/petroleum to give pentachlorophenyl 5-chloro-2-methoxy-4-methylaminobenzoate, m.pt 217°-219° C.

reactant | 5-chloro-2-methoxy-4-methyl benzoic acid | 0.0093 mol, 2 g | ClC=1C(=CC(=C(C(=O)O)C1)OC)C | C9H9ClO3
reactant | pentachlorophenyl trichloroacetate | 0.11 mol, 4.5 g | ClC(C(=O)OC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)(Cl)Cl | C8Cl8O2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | pentachlorophenyl 5-chloro-2-methoxy-4-methylaminobenzoate | ClC=1C(=CC(=C(C(=O)OC2=C(C(=C(C(=C2Cl)Cl)Cl)Cl)Cl)C1)OC)NC | C15H9Cl6NO3
